* D:\GitHub Repositories\GaN-Studies\Protection Circuits\ParasiticProtection.asc
V1 N001 0 270
R1 N005 N004 10
R2 N014 N013 10
L1 N004 N003 2e-9
L2 N013 N012 2e-9
V2 N003 N009 PULSE(6 -3 10000e-9 1e-9 1e-9 9900e-9 20000e-9)
V3 N012 Vgnd PULSE(-3 6 10000e-9 1e-9 1e-9 9900e-9 20000e-9)
Lparasitic Vcp N016 1.11e-9 Rser=0
R4 N005 N006 2
D1 N006 N004 D
D2 N015 N013 D
R5 N014 N015 2
L4 N001 N002 18e-9
I1 N011 0 20
XU1 N005 N002 N011 N009 GS66508B_L1V2
XU2 N014 N011 Vcp Vgnd GS66508B_L1V2
R8 N016 0 0.243e-3
R9 Vcn N017 2.2k
C3 Vcp Vcn 1e-9
V4 Vpos Vgnd 5
V5 Vneg Vgnd -5
R3 N008 N010 1k
R6 N010 N007 1k
R7 N007 Vgnd 10k
R10 N008 N007 220
R11 Vamp N008 10k
XU5 Vcn N007 Vpos Vneg N010 LT1813
XU3 Vcp N008 Vpos Vneg Vamp LT1813
C2 Vamp Vgnd 2.7p
R18 Vamp Vgnd 1k
R19 Vcn N017 {Rntc}
R20 N017 0 2.74k
.model D D
.lib C:\Users\Furkan\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 100e-6
.option temp=125
;ac dec 5 1 5000e6
* For 155.5 x 155.5 mil trace (Source Pin Dimension)\n2 oz/ft^2 thickness\n \n25C - 0.243 mohm\n50C - 0.267 mohm\n75C - 0.29 mohm\n100C - 0.314 mohm\n125C - 0.338 mohm\n150C - 0.361 mohm\nL = 1.108404 nH
.param Rntc=10k*exp(B*(1/(temp + 273.5 )+1/(273.5+25)))
.param B = 3455
.lib GaN_LTspice_GS66508B_L1V2.lib
.lib LTC.lib
.backanno
.end
